US05332737
A mixture of 2-methyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazine (221 mg; 1 mM) and methyl iodide (0.5 ml; 8 mM) and dioxane (5 ml) was heated at reflux for 15 hours. The mixture was cooled, the solvent removed under reduced pressure and the residue was crystallised from a mixture of methanol and ether. There was thus obtained 1,2-dimethyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazinium iodide (262 mg, 72% yield) m.p. 214°-214.5° C.; microanalysis found: C,39.7; H,5.8; N,19.3%; C12H22N5I requires: C,39.7; H,6.1; N,19.3%; NMR (200 MHz). (CDCl3): 0.95-1.05 (3H,q, piperidine 3--CH3), 1.2-2.0 (5H, complex, piperdine 3H, 4--CH2 and 5--CH2), 2.5-2.6 (3H, s, CH3), 2.6-3.15 (2H, complex, piperidine 2 --H axial and 6--H axial), 3.05-3.15 (3H,d, NHCH3), 3.9 (3H,s, N--CH3), 4.45-4.7 (2H, complex piperidine 2--H equatorial and 6--H equatorial), 8.6-8.8 (1H, br, NH). [Note: the site of quaternisation was confirmed by conventional nuclear Overhauser studies].

reactant | 2-methyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazine | 1 mM, 221 mg | CC1=NC(=NC(=N1)N1CC(CCC1)C)NC | C11H19N5
reactant | methyl iodide | 8 mM, 0.5 ml | CI | CH3I
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1,2-dimethyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazinium iodide | 262 mg, 72% yield | [I-].C[N+]1=C(N=C(N=C1NC)N1CC(CCC1)C)C | InChI=1S/C12H21N5.HI/c1-9-6-5-7-17(8-9)12-14-10(2)16(4)11(13-3)15-12;/h9H,5-8H2,1-4H3;1H
